US07491724B2
To a stirred solution of N-benzyloxycarbonyl-β-alanine (11.16 g, 50.00 mmol) in anhydrous THF (160 mL) and DMF (40 mL) at 0° C. was slowly added NaH (60% in oil, 6.000 g, 150.0 mmol). After stirring at 0° C. for 15 min, benzyl bromide (9.10 mL, 75.00 mmol) was added. The reaction mixture was stirred at rt for 22 h. It was quenched with water (90 mL), followed by 1 N HCl (110 mL), and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by Combiflash (40-60% EtOAc/hexane) to afford 3-{benzyl[(benzyloxy)cabonyl]amino}propanoic acid as a viscous pale yellow oil (14.2 g, 91% in yield). MS (ESI): 312.0 (M−H).

reactant | N-benzyloxycarbonyl-β-alanine | 50.00 mmol, 11.16 g | C(C1=CC=CC=C1)OC(=O)NCCC(=O)O | C11H13NO4
reactant | NaH | 150.0 mmol, 6.000 g | [H-].[Na+]
reactant | benzyl bromide | 75.00 mmol, 9.10 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 160 mL | C1CCOC1 | C4H8O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-{benzyl[(benzyloxy)cabonyl]amino}propanoic acid | C(C1=CC=CC=C1)N(CCC(=O)O)C(=O)OCC1=CC=CC=C1 | C18H19NO4
